US08114871B2
3,4-Dichloro-N-[5-(4-fluoro-1-methyl-piperidine-4-carbonyl)-6,6-dimethyl-1,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-benzamide
DIEA (0.220 mL, 1.66 mmol) and 3-(3,4-Dichloro-benzoylamino)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-1-carboxylic acid ethyl ester (221 mg, 0.51 mmol) were added to a solution of 4-Fluoro-1-methyl-piperidine-4-carbonyl chloride (0.51 mmol) in CH2Cl2 (10 mL). The reaction was stirred at RT for 4 h. The mixture was quenched with H2O (30 mL), extracted with CHCl3 (2×30 mL). The organic layers were dried over MgSO4 and concentrated to give the title compound as brown color oil which was used without further purification. ESI (MNa+): 564.10.

reactant | DIEA | 1.66 mmol, 0.220 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(3,4-Dichloro-benzoylamino)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-1-carboxylic acid ethyl ester | 0.51 mmol, 221 mg | C(C)OC(=O)N1N=C(C2=C1C(NC2)(C)C)NC(C2=CC(=C(C=C2)Cl)Cl)=O | C17H18Cl2N4O3
reactant | 4-Fluoro-1-methyl-piperidine-4-carbonyl chloride | 0.51 mmol | FC1(CCN(CC1)C)C(=O)Cl | C7H11ClFNO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-N-[5-(4-fluoro-1-methyl-piperidine-4-carbonyl)-6,6-dimethyl-1,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-benzamide | ClC=1C=C(C(=O)NC=2C3=C(NN2)C(N(C3)C(=O)C3(CCN(CC3)C)F)(C)C)C=CC1Cl | C21H24Cl2FN5O2
